US07396954B2
To a stirred suspension of sodium iodide (72 g) and chlorotrimethylsilane (52 g) in acetonitrile (180 g) was added dropwise a solution of ethyl 2-[4-(1-hydroxy-2,2-dimethoxyethyl)-2,5-dimethylphenoxy]acetate (50 g) in acetonitrile (80 g) in an ice-salt bath. The mixture was stirred for 30 minutes, and then toluene (400 g) and pyridine (25 g) were added. The reaction mixture was washed with an aqueous solution of sodium thiosulfate, an aqueous solution of citric acid, an aqueous solution of sodium bicarbonate and brine successively. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give ethyl 2-[4-(2,2-dimethoxyethyl)-2,5-dimethylphenoxy]acetate (43 g).

reactant | sodium iodide | 72 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 52 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethyl 2-[4-(1-hydroxy-2,2-dimethoxyethyl)-2,5-dimethylphenoxy]acetate | 50 g | OC(C(OC)OC)C1=CC(=C(OCC(=O)OCC)C=C1C)C | C16H24O6
reactant | toluene | 400 g | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 180 g | C(C)#N | C2H3N
solvent | acetonitrile | 80 g | C(C)#N | C2H3N
solvent | pyridine | 25 g | N1=CC=CC=C1 | C5H5N
product | ethyl 2-[4-(2,2-dimethoxyethyl)-2,5-dimethylphenoxy]acetate | 43 g | COC(CC1=CC(=C(OCC(=O)OCC)C=C1C)C)OC | C16H24O5
